US04760163
using isopropyl 2,4-dichloro-5-(1,2,4,5,6,7-hexahydro-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate and dimethyl sulphate with sodium isopropylate in isopropanol there is obtained isopropyl 2,4-dichloro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate, 1H--NMR (CDCl3, 400 MHz, 7.78 ppm (s, 1H), 7.65 ppm (s, 1H), 5.23 ppm (m, 1H), 3.42 ppm (s, 3H), 2.96 ppm (m, 2H), 2.82 ppm (m, 2H), 2.17 ppm (m, 2H), 1.35 ppm (d, 6H),

reactant | isopropyl 2,4-dichloro-5-(1,2,4,5,6,7-hexahydro-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)Cl)N1C(NC2=C(C1=O)CCC2)=O | C17H16Cl2N2O4
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium | [Na] | Na
solvent | isopropanol | C(C)(C)O | C3H8O
product | isopropyl 2,4-dichloro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)Cl)N1C(N(C2=C(C1=O)CCC2)C)=O | C18H18Cl2N2O4
